US06110924
b) Preparation of 5-bromo-5-(4-methylphenyl)barbituric acid
To a suspension of 5-(4-methylphenyl)barbituric acid (218 mg) in 2 ml of water, kept at 10° C. under stirring, 136 μl of 48% hydrobromic acid are added, then 56 μl of brominr are dropped and the stirring is continued for 3 hours. The precipitate which formed is recovered by filtration and washed with water. then it is dried under vacuum to give 270 mg of the product, m.p. 210-213° C.

reactant | 5-(4-methylphenyl)barbituric acid | 218 mg | CC1=CC=C(C=C1)C1C(NC(NC1=O)=O)=O | C11H10N2O3
reactant | hydrobromic acid | 136 μl | Br | BrH
solvent | water | 2 ml | O | H2O
product | 5-bromo-5-(4-methylphenyl)barbituric acid | 270 mg | BrC1(C(NC(NC1=O)=O)=O)C1=CC=C(C=C1)C | C11H9BrN2O3
